US08097759B2
N-[3,5-Bis(trifluoromethyl)phenyl]-2-hydroxy-5-(pentafluoroethyl)-benzamide (Compound No. 70)
Using 2-hydroxy-5-(pentafluoroethyl)benzoic acid and 3,5-bis(trifluoromethyl)aniline as the raw materials, the same operation as the example 16 gave the title compound. (2-Hydroxy-5-(pentafluoroethyl)benzoic acid: refer to Chem. Pharm. Bull., 1996, 44, 734.)

reactant | 2-hydroxy-5-(pentafluoroethyl)benzoic acid | OC1=C(C(=O)O)C=C(C=C1)C(C(F)(F)F)(F)F | C9H5F5O3
reactant | 3,5-bis(trifluoromethyl)aniline | FC(C=1C=C(N)C=C(C1)C(F)(F)F)(F)F | C8H5F6N
product | N-[3,5-Bis(trifluoromethyl)phenyl]-2-hydroxy-5-(pentafluoroethyl)-benzamide | FC(C=1C=C(C=C(C1)C(F)(F)F)NC(C1=C(C=CC(=C1)C(C(F)(F)F)(F)F)O)=O)(F)F | C17H8F11NO2
